US07105567B2
By the reaction and treatment in the same manner as in Example 2 using 2-(4-benzylaminophenyl)ethyl acetate (5.0 g) and 2,6-diisopropylphenyl isocyanate (5.7 g) as starting materials, 2-{4-[1-benzyl-3-(2,6-diisopropylphenyl)ureido]phenyl}ethyl acetate (1.39 g) was obtained.

reactant | 2-(4-benzylaminophenyl)ethyl acetate | 5.0 g | C(C)(=O)OCCC1=CC=C(C=C1)NCC1=CC=CC=C1 | C17H19NO2
reactant | 2,6-diisopropylphenyl isocyanate | 5.7 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
product | 2-{4-[1-benzyl-3-(2,6-diisopropylphenyl)ureido]phenyl}ethyl acetate | 1.39 g | C(C)(=O)OCCC1=CC=C(C=C1)N(C(=O)NC1=C(C=CC=C1C(C)C)C(C)C)CC1=CC=CC=C1 | C30H36N2O3
